US07851629B2
4-[3-(difluoromethoxy)-2-fluorophenyl]-1-ethylpiperidine
To a solution of 3-(1-ethylpiperidin-4-yl)-2-fluorophenol (0.43 g, 1.9 mmol) ) in isopropanol (5 ml) and aqueous sodium hydroxide (30%, 5 ml) was added chlorodifluoromethane gas through a liner for 1 min. The mixture was heated to 65° C. and bubbling of chlorodifluoromethane was continued for an additional 30 min. Water (50 ml) was added and the mixture was extracted with ethylacetate (3×50 ml). The combined organic phases was dried (MgSO4), filtered and evaporated to dryness. MS m/z (rel. intensity, 70 eV) 273 (M+, 14), 272 (13), 259 (12), 258 (bp), 84 (13).

reactant | 3-(1-ethylpiperidin-4-yl)-2-fluorophenol | 1.9 mmol, 0.43 g | C(C)N1CCC(CC1)C=1C(=C(C=CC1)O)F | C13H18FNO
reactant | sodium hydroxide | 5 ml | [OH-].[Na+]
reactant | chlorodifluoromethane | ClC(F)F | CHClF2
solvent | isopropanol | 5 ml | C(C)(C)O | C3H8O
product | 4-[3-(difluoromethoxy)-2-fluorophenyl]-1-ethylpiperidine | FC(OC=1C(=C(C=CC1)C1CCN(CC1)CC)F)F | C14H18F3NO
